US05330985
3.1. Methyl 2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxylate
12.7 g (35.3 mmol) of 2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxamide and 300 ml of methanol are introduced into a 0.5 l round-bottomedflask, a stream of gaseous hydrochloric acid is passed through for a few minutes and the mixture is heated at the reflux temperature of the methanol for 4 h.

reactant | 2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxamide | 35.3 mmol, 12.7 g | COC1=C(OCCN(CCCNC2=NC=CC(=N2)C(=O)N)C)C=CC=C1 | C18H25N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
reactant | methanol | 300 ml | CO | CH4O
product | Methyl 2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxylate | COC1=C(OCCN(CCCNC2=NC=CC(=N2)C(=O)OC)C)C=CC=C1 | C19H26N4O4
